US09035073B2
Tert-butyl 3-(3,5-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate
To a solution of tert-butyl-3-(3,5-difluorophenyl)-3-hydroxypyrrolidin-1-carboxylate (3.8 g, 12.7 mmol) in dry tetrahydrofuran (50 mL), was added sodium hydride (60% dispersion in mineral oil, 0.76 g, 19 mmol). The mixture was stirred for 10 min after which iodomethane (1.58 mL, 25.4 mmol) was added. The mixture was stirred for 15 min, aqueous saturated ammonium chloride solution (50 ml) was added and the aqueous phase was extracted with ethyl acetate (2×50 mL). The combined organic phase was dried (Na2SO4), filtered and evaporated. Purification by flash column chromatography on silica gel (ethyl acetate/isooctane, 1:9 to 1:1) gave the title compound (2.64 g, 66%). MS m/z (rel. intensity, 70 eV) 257 (31), 240 (17), 212 (13), 127 (18), 57 (bp).

reactant | tert-butyl-3-(3,5-difluorophenyl)-3-hydroxypyrrolidin-1-carboxylate | 12.7 mmol, 3.8 g | C(C)(C)(C)OC(=O)N1CC(CC1)(O)C1=CC(=CC(=C1)F)F | C15H19F2NO3
reactant | sodium hydride | 19 mmol, 0.76 g | [H-].[Na+]
reactant | iodomethane | 25.4 mmol, 1.58 mL | IC | CH3I
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Tert-butyl 3-(3,5-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate | 2.64 g, 66% | FC=1C=C(C=C(C1)F)C1(CN(CC1)C(=O)OC(C)(C)C)OC | C16H21F2NO3
